US07786143B2
Step 1: 2-Piperidin-4-yl-thiazole-4-carboxylic acid ethyl ester
A mixture of 10 g (41 mmol) 4-thiocarbamoyl-piperidine-1-carboxylic acid tert-butyl ester (commercially available) and 7.98 g (41 mmol) ethyl bromopyruvate (commercially available) in 120 ml ethanol was stirred at 70° C. for 90 min. The mixture was evaporated to dryness, Na2CO3 aq. was added and the residue was extracted with ethyl acetate. The organic phases were washed with NaCl aq., dried with MgSO4 and evaporated to dryness. The residue was purified on silica eluting with DCM/MeOH/25% NH3 in water 100/20/1 to yield after evaporation of the product fractions 7.28 g (74%) of the title compound as light brown solid.

reactant | 4-thiocarbamoyl-piperidine-1-carboxylic acid tert-butyl ester | 41 mmol, 10 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(N)=S | C11H20N2O2S
reactant | ethyl bromopyruvate | 41 mmol, 7.98 g | BrCC(C(=O)OCC)=O | C5H7BrO3
solvent | ethanol | 120 ml | C(C)O | C2H6O
product | 2-Piperidin-4-yl-thiazole-4-carboxylic acid ethyl ester | C(C)OC(=O)C=1N=C(SC1)C1CCNCC1 | C11H16N2O2S
